US09079866B2
1-{[4′-(3,4-Dihydro-2H-pyrido[3,2-b][1,4]oxazin-7-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}piperidin-4-amine
The title compound was prepared in a manner similar to that described in Example 444 using 7-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3-dioxolan-2-yl)phenyl)-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine and 1-((2-bromophenyl)sulfonyl)piperidin-4-amine. MS (ESI): mass calcd. for C24H25FN4O3S, 468.16; m/z found, 469.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.09-8.05 (m, 1H), 7.83 (d, J=1.1, 1H), 7.75-7.68 (m, 2H), 7.66-7.55 (m, 2H), 7.43-7.39 (m, 1H), 7.34-7.26 (m, 2H), 4.39-4.35 (m, 2H), 3.76-3.68 (m, 2H), 3.47 (d, J=13.4, 2H), 3.21-3.11 (m, 1H), 2.60-2.50 (m, 2H), 1.96-1.87 (m, 2H), 1.56-1.43 (m, 2H).

reactant | 7-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3-dioxolan-2-yl)phenyl)-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine | FC1=C(C=CC(=C1)C1OC(C(O1)(C)C)(C)C)C1=CC=2OCCNC2N=C1 | C20H23FN2O3
reactant | 1-((2-bromophenyl)sulfonyl)piperidin-4-amine | BrC1=C(C=CC=C1)S(=O)(=O)N1CCC(CC1)N | C11H15BrN2O2S
product | 1-{[4′-(3,4-Dihydro-2H-pyrido[3,2-b][1,4]oxazin-7-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}piperidin-4-amine | O1C2=C(NCC1)N=CC(=C2)C2=C(C=C(C=C2)C2=C(C=CC=C2)S(=O)(=O)N2CCC(CC2)N)F | C24H25FN4O3S
